US05998433
b) Synthesis of N,N-dimethyl-[6-[4-(2-phenyl-1,3-dithiolan-2-yl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(2-phenyl-1,3-dithiolan-2-yl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.384 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(2-phenyl-1,3-dithiolan-2-yl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.384 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C2(SCCS2)C2=CC=CC=C2)=O)O1 | C26H28N2O2S2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(2-phenyl-1,3-dithiolan-2-yl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C2(SCCS2)C2=CC=CC=C2)=O)O1 | InChI=1S/C26H28N2O2S2.ClH/c1-27(2)17-23-16-20-12-13-28(18-24(20)30-23)25(29)19-8-10-22(11-9-19)26(31-14-15-32-26)21-6-4-3-5-7-21;/h3-11,16H,12-15,17-18H2,1-2H3;1H
